US07008957B2
11h) Methyl (3R,6R,7aS)-6-tert-butoxycarbonylamino-5-oxo-6-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]hexahydropyrrolo[2,1-b]thiazole-3-carboxylate
497 mg of (3R,6R,7aS)-6-tert-butoxycarbonylamino-5-oxo-6-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]hexahydropyrrolo[2,1-b]thiazole-3-carboxylic acid were dissolved in 8 ml of methanol and 8 ml of diethyl ether and cooled to 0° C. 914 μl of a 1 N solution of trimethylsilyldiazomethane in hexane were added dropwise. The mixture was stirred for 1 h and then 1 ml of acetic acid was added dropwise. After 1 h, the solvents were removed in vacuo, and the residue was purified by chromatography on silica gel.

reactant | (3R,6R,7aS)-6-tert-butoxycarbonylamino-5-oxo-6-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]hexahydropyrrolo[2,1-b]thiazole-3-carboxylic acid | 497 mg | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)O)CC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C24H41N3O7SSi
reactant | diethyl ether | 8 ml | C(C)OCC | C4H10O
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 8 ml | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | Methyl (3R,6R,7aS)-6-tert-butoxycarbonylamino-5-oxo-6-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]hexahydropyrrolo[2,1-b]thiazole-3-carboxylate | C(C)(C)(C)OC(=O)N[C@@]1(C[C@@H]2SC[C@H](N2C1=O)C(=O)OC)CC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C25H43N3O7SSi
